Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Tetanus
 
Attending: ___.
 
Chief Complaint:
History of cT1c Prostate Cancer. 
 
Major Surgical or Invasive Procedure:
Robot-assisted laparascopic prostatectomy ___

 
History of Present Illness:
___ yo M with PSA 7.7 Gl 4+3=7 CaP in ___ cores s/p RALP 
(___).
 
Past Medical History:
ANEMIA                                                          
CIGARETTE SMOKING                                               
DEPRESSION                                                      
HEMORRHOIDS                                                     
HYPERCHOLESTEROLEMIA                                            
ONYCHOMYCOSIS                                                   
S/P TONSILLECTOMY                                               
SEXUAL DYSFUNCTION                                              
VARICOSE VEINS                                                  
DIABETES TYPE II  x ___ year
PULMONARY NODULE                                                
CHRONIC OBSTRUCTIVE PULMONARY DISEASE                           
H/O ATYPICAL CHEST PAIN                                         
H/O COLONIC POLYPS                                              
H/O HEMATOCHEZIA                                                
H/O POSITIVE PPD                                                
H/O R KNEE SEPTIC ARTHRITIS                                     
H/O TETANUS TOXOID REACTION  
                             
 
Social History:
___
Family History:
No family history of prostate cancer. 
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended, appropriately tender along incision 
sites
Incisions C/D/I
JP drain has been removed. 
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service after 
undergoing robotic assisted laparoscopic prostatectomy. No 
concerning intra-operative events occurred; please see dictated 
operative note for full details.  The patient received 
___ antibiotic prophylaxis.  At the end of the 
procedure the patient was extubated and transported to the PACU 
for further recovery before being transferred to the floor.  He 
was transferred from the PACU in stable condition. On POD0, pain 
was well controlled on PCA, hydrated with intravenous fluids for 
urine output >30cc/hour, provided with pneumoboots and incentive 
spirometry for prophylaxis, and he ambulated once. On POD1, the 
patient was restarted on home medications, basic metabolic panel 
and complete blood count were checked, pain control was 
transitioned from PCA to oral analgesics, diet was advanced to a 
clears/toast and crackers diet for breakfast and lunch.  Diet 
was advanced to regular after lunch and with further ambulation, 
the JP drain was removed.  Foley catheter care and leg bag 
teaching was provided by nursing. The remainder of the hospital 
course was unremarkable. The patient was discharged in stable 
condition, eating well, ambulating independently, and with pain 
control on oral analgesics. On exam, incision was clean, dry, 
and intact, with no evidence of hematoma collection or 
infection. The patient was given explicit instructions to 
follow-up in one week for post-operative evaluation and trial of 
voiding.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Albuterol Inhaler 1 PUFF IH Q4H Shortness of breath 

 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H 
Take the day before, day of, and day after your appointment for 
Foley removal.  
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
3. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN 
breakthrough pain only(score>4) 
Do not take concurrently with Tylenol. Do not exceed 4g Tylenol 
per day.  
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every four (4) hours Disp #*30 Tablet Refills:*0
4. Lisinopril 10 mg PO DAILY 
5. MetFORMIN (Glucophage) 500 mg PO DAILY 
6. Albuterol Inhaler 1 PUFF IH Q4H Shortness of breath 
7. Atorvastatin 20 mg PO QPM 
8. Bacitracin Ointment 1 Appl TP QID 
apply to penile meatus to avoid irritation from Foley catheter.  

RX *bacitracin zinc 500 unit/gram Apply to penile meatus twice a 
day Disp #*30 Packet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Prostate cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also reference the additional handout provided by your 
urologist with instructions and information about your surgery 
and post-operative plan of care.

-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-Resume your pre-admission medications except as noted AND you 
note that you NO longer need to take medications that shrink 
your prostate (Hytrin, Avodart, Flomax, etc.)

-You may take ibuprofen and the prescribed narcotic together for 
pain control. FIRST, use Tylenol and Ibuprofen. Replace Tylenol 
with prescribed narcotic (examples: Vicodin, Percocet) for break 
through pain that is >4 on the pain scale.

-The maximum dose of Tylenol (ACETAMINOPHEN) is 4 grams (from 
ALL sources) PER DAY.

-The prescribed pain medication may also contain 
Tylenol/acetaminophen so this needs to be considered when 
monitoring your daily dose and maximum.

-Ibuprofen should always be taken with food. If you develop 
stomach pain or note black stool, stop the Ibuprofen.  Ibuprofen 
works best when taken “around the clock.”

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener--it is NOT a laxative.

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain removed from your abdomen, bandage strips 
called “steristrips” have been applied to close the wound. Allow 
these bandage strips to fall off on their own ___ days).  
PLEASE REMOVE any remaining dressings w/ gauze within 2 days of 
discharge.  You may get the steristrips wet.

-No heavy lifting for 4 weeks (no more than 10 pounds). Light 
household chores are generally “ok”.  Fold laundry but ___ 
lift it. Wash/Dry dishes. Do not Vacuum. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive
bleeding from incision, chest pain or shortness of breath.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
allow anyone that is outside of the urology team remove your 
Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Take prescribed antibiotic for Foley catheter removal as 
directed

-resume regular home diet and remember to drink plenty of fluids 
to keep hydrated and to minimize risk of constipation. For the 
first few days at home, you should eat SMALL PORTIONS.  Avoid 
high fat, bulky or fried foods. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive
bleeding from incision, chest pain or shortness of breath.

 
Followup Instructions:
___